US07759518B2
Step C: Butyl 1-Methyl-cyclopropanesulfonate
To a solution of 1-Butyl cyclopropanesulfonate (1 g, 5.58 mmol) in THF (15 ml) butyllithium solution (3.84 ml, 6.14 mmol, 1.6M, THF) was slowly added at −78° C. under nitrogen atmosphere. After 15 minutes MeI (0.72 ml, 11.16 mmol) was added and the solution was allowed to warm to 0° C. and quenched with water (1 ml). The volatiles evaporated under reduced pressure and the residue extracted with CH2Cl2 (100 ml). The extract was washed with water, dried (MgSO4) and evaporated. The residue was purified over silica gel chromatography (eluants: hexane/CH2Cl2) to obtain the titled product (0.59 g, 55.0%) as a colorless oil. 1H NMR (300 MHz, CDCl3)) δ 0.84 (m, 2H), 0.95 (t, J=7.2 Hz, 3H), 1.43 (m, 4H), 1.53 (s, 3H), 1.74 (m, 2H), 4.21 ((t, J=6.6 Hz, 2H).

reactant | 1-Butyl cyclopropanesulfonate | 5.58 mmol, 1 g | C1(CC1)S(=O)(=O)OCCCC | C7H14O3S
reactant | THF | 6.14 mmol, 1.6M, 15 ml | C1CCOC1 | C4H8O
reactant | MeI | 11.16 mmol, 0.72 ml | CI | CH3I
product | Butyl 1-Methyl-cyclopropanesulfonate | 0.59 g, 55.0% | CC1(CC1)S(=O)(=O)OCCCC | C8H16O3S
